US08420632B2
2.8 ml of trifluoroacetic acid are added to a solution of 2.1 g (4 mmol) of dimethyl 2-(4-tert-butoxycarbonylpiperazin-1-yl)-2-[(4-but-2-ynyloxybenzenesulfonylamino)methyl]malonate diluted in 30 ml of dichloromethane. After stirring at ambient temperature for 24 h, a saturated aqueous solution of sodium hydrogen carbonate is added to pH=8 and the reaction medium is extracted with dichloromethane. The organic phases are combined, washed with water, dried over magnesium sulfate, and then filtered and evaporated. 1.7 g (98%) of dimethyl 2-[(4-but-2-ynyloxybenzenesulfonylamino)methyl]-2-piperazin-1-ylmalonate are obtained in the form of a white solid.

reactant | trifluoroacetic acid | 2.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dimethyl 2-(4-tert-butoxycarbonylpiperazin-1-yl)-2-[(4-but-2-ynyloxybenzenesulfonylamino)methyl]malonate | 4 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(=O)OC)(C(=O)OC)CNS(=O)(=O)C1=CC=C(C=C1)OCC#CC | C25H35N3O9S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | dimethyl 2-[(4-but-2-ynyloxybenzenesulfonylamino)methyl]-2-piperazin-1-ylmalonate | 1.7 g, 98% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NCC(C(=O)OC)(C(=O)OC)N1CCNCC1 | C20H27N3O7S
